US06440966B1
Step g: Preparation of 2-(2-Chloro-4-iodo-phenylamino)-4-dimethylsulfamoyl-benzoic acid O-(tetrahydro-2H-pyran-2-yl)-oxyamide
A solution comprised of 2-(2-chloro-4-iodo-phenylamino)-4-dimethylsulfamoyl-benzoic acid, O-(tetrahydro-2H-pyran-2-yl)-hydroxylamine (1.25 molar equivalents), benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (1.25 molar equivalents), and diisopropylethylamine (3 molar equivalents) in 1:1 v/v tetrahydrofuran-dichloromethane is stirred for 30 minutes. The reaction mixture is concentrated in vacuo and the residue is purified by flash chromatography; elution with dichloromethane affords the desired product. The product may be recrystallized with an appropriate solvent like methanol if further purification is necessary.

reactant | 2-(2-chloro-4-iodo-phenylamino)-4-dimethylsulfamoyl-benzoic acid | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CC(=C1)S(N(C)C)(=O)=O | C15H14ClIN2O4S
reactant | O-(tetrahydro-2H-pyran-2-yl)-hydroxylamine | 1.25 molar | O1C(CCCC1)ON | C5H11NO2
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.25 molar | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | diisopropylethylamine | 3 molar | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran dichloromethane | O1CCCC1.ClCCl
product | 2-(2-Chloro-4-iodo-phenylamino)-4-dimethylsulfamoyl-benzoic acid O-(tetrahydro-2H-pyran-2-yl)-oxyamide | O1C(CCCC1)ONC(C1=C(C=C(C=C1)S(N(C)C)(=O)=O)NC1=C(C=C(C=C1)I)Cl)=O | C20H23ClIN3O5S
